US07915424B2
3-Trimethylsilanylethynylbenzonitrile
Add trimethylsilylacetylene (3.4 mL, 24.0 mmol) to a mixture of bis(triphenylphosphine)palladium (II) dichloride (766 mg, 1.1 mmol), copper (I) iodide (418 mg, 2.2 mmol) and 3-iodobenzonitrile (5 g, 21.8 mmol) in triethylamine (20 mL). Upon addition of the trimethylsilylacetylene an exothermic reaction occurs and after about 4 min the reaction mixture solidifies. Cool the reaction mixture for about 15 min, dilute with ethyl acetate (100 mL), filter through fluted filter paper using ethyl acetate and concentrate. Dissolve the residue in ethyl acetate (200 mL) and wash sequentially with an aqueous solution of 0.1 N hydrochloric acid and a saturated aqueous solution of sodium chloride. Dry (sodium sulfate), filter and concentrate. Purify the residue by silica gel chromatography, eluting with 0:100 to 5:95 ethyl acetate:hexanes, to give the title compound as a tan solid (3.6 g, 83%).

reactant | trimethylsilylacetylene | 24.0 mmol, 3.4 mL | C[Si](C)(C)C#C | C5H10Si
reactant | 3-iodobenzonitrile | 21.8 mmol, 5 g | IC=1C=C(C#N)C=CC1 | C7H4IN
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium | 1.1 mmol, 766 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 2.2 mmol, 418 mg | [Cu]I
product | 3-Trimethylsilanylethynylbenzonitrile | 3.6 g, 83% | C[Si](C)(C)C#CC=1C=C(C#N)C=CC1 | C12H13NSi
